US04785101
Step 1. 6-(3-Carbomethoxy-2-methyl-propionyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone
3,4-Dihydro-4-methyl-2(1H)-quinazolinone (3.9 g) is added to a stirred suspension of anhydrous aluminum chloride (16.5 g) in carbon disulfide (120 ml) under nitrogen. 3-Carbomethoxy-2-methyl-propionyl chloride (4 g) is added dropwise to the stirred suspension, which is refluxed for about 17 hours and cooled to RT. The liquid phase is decanted and the residue is treated with ice/H2O (150 ml) and extracted with methylene chloride. The organic extract is dried, filtered, and concentrated in vacuo, affording the desired crude product as an oil, which is used in the next step without further purification.

reactant | 3,4-Dihydro-4-methyl-2(1H)-quinazolinone | 3.9 g | CC1NC(NC2=CC=CC=C12)=O | C9H10N2O
reactant | aluminum chloride | 16.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-Carbomethoxy-2-methyl-propionyl chloride | 4 g | C(=O)(OC)CC(C(=O)Cl)C | C6H9ClO3
solvent | carbon disulfide | 120 ml | C(=S)=S | CS2
product | 6-(3-Carbomethoxy-2-methyl-propionyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone | C(=O)(OC)CC(C(=O)C=1C=C2C(NC(NC2=CC1)=O)C)C | C15H18N2O4
